Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old M w/ PMH HTN, HLD, DVT x 2 on
lifelong coumadin who was brought in by EMS after a syncopal
event.

The patient reports he was in his normal state of health and
passed out at home, was found by EMS and syncopized again when
they tried to sit him up. EKG with multiple anterior leads with
ST elevation, was activated as STEMI from EMS, and arrived with
soft blood pressure with map in the low ___. Heart rate ___.

In the ED, initial VS were: HR ___, BP 100s/50s. 

Exam notable for:  No systolic murmur, clear lungs
Bilateral radial pulses intact
Strong left DP
Nonpalpable right dp

POC US was non-diagnostic.

ECG:  sinus rhythm, V2-V6 STEs. Q wave in II, III, aVF.

Labs showed:  INR 2.7, Cr 1.2, trop negative x1, ethanol 37,
lactate 2.3.

Imaging showed:  CT Head: 1. No fracture or acute intracranial
process.
2. Paranasal sinus disease as described.

Patient received nothing.

On arrival to the floor, patient reports that he is feeling 
well.
He reports that yesterday he went to the ___ gym and did a work
out. He was in the steam room for a little bit after the work
out. He drank a lot of water because he had been in the steam
room. He had dinner with his fiancée at home and he drank 3
glasses of wine. He also smoked marijuana. He did not feel 
unwell
during the day at all. He has been feeling his baseline. He went
to stand from sitting after looking at a computer with his
fiancée and syncopized, falling backwards. She says that he was
alert immediately after the fall and could speak to her. He just
kept his eyes closed and seemed a little "out of it." He reports
that he does not remember feeling unwell, just a bit tired right
as he stood up. He doesn't remember the fall. Denies chest
pain/pressure, diaphoresis, nausea, SOB. His fiancée notes that
he was very sweaty in bed 2 nights ago. She woke up and he had
sweat through the sheets. He reports that he has not had that
before.

He has syncopized once before. He was sitting at a chair in the
kitchen and slumped to the side. He felt fine afterward and saw
the doctor in clinic who did a CT scan of his chest which was
normal. He has never had a Holter monitor.

 
Past Medical History:
HTN
HLD
DVT x 2, on lifelong Coumadin
Asthma

 
Social History:
___
Family History:
No family history of arrhythmia. Mother died of
a heart attack in her ___ and father had CABG in his ___.

 
Physical Exam:
ADMISSION EXAM
 
VS:  98.5 108 / 71 78 18 95 Ra 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema. Has left wrist
ganglion cyst.  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE EXAM

VS: 97.8, 136/76, 74, 17, 96 percent on RA
General: comfortably laying in bed, no apparent distress
Heart: rrr, no mrg
Lungs: breathing comfortably, ctab
Abdomen: soft, ntnd
extremities: no ___ edema

 
Pertinent Results:
___ echo: IMPRESSION: Normal biventricular chamber size and 
regional/global systolic function. No structural cause of 
syncope identified. 

___ CTA: 1. No evidence of pulmonary embolism or aortic 
abnormality.
2. Contour irregularities of the left lateral fifth, sixth and 
seventh ribs,
with some signs of healing, likely old, however superimposed 
acute injury
cannot be excluded.  Small opacity adjacent to these fractures 
is likely
atelectasis. 3. Mild diffuse bronchial wall thickening, may be 
infectious or inflammatory nature.

___ CT head: 1. No fracture or acute intracranial abnormality 
on noncontrast head CT. Specifically no intracranial 
hemorrhage.2. Paranasal sinus disease as described.3. No acute 
displaced calvarial fracture.

 
Brief Hospital Course:
SUMMARY STATEMENT
========
Mr. ___ is a ___ year old M w/ PMH HTN, HLD, DVT x 2 on 
lifelong coumadin who was brought in by EMS after a syncopal 
event. Blood pressures were found to be low (SBP in the ___ 
with a negative echocardiogram. 

ACUTE ISSUES: 
========
#Syncope: Most likely etiology is low blood pressures as patient 
presented with SBP in the ___. Patient reports losing up to 50 
pounds in the setting of stress with his late wife's passing due 
to ovarian cancer, which likely led to increased effectiveness 
of his home hypertension medications. Though his orthostatics in 
the hospital were negative, this event occurred right when the 
patient stood up so there is likely an orthostatic component as 
well. Reassuringly, patient had a negative echo so structural 
disease can be ruled out. Inside the hospital, his telemetry 
showed normal sinus rhythm. He will get an outpatient monitor to 
check for arrhythmias. His home amlodipine and valsartan were 
held with the expectation that his PCP ___ check his blood 
pressures in the outpatient setting and re-dose as necessary. 

CHRONIC ISSUES: 
======== 
#HTN: hold home meds as above 
#HLD: continue atorvastatin 
#h/o DVT: continue warfarin 
#Asthma: continue budesonide inhaler and albuterol as needed 

TRANSITIONAL ISSUES
========
[] we held his home amlodipine and valsartan: please re-check 
blood pressure in the outpatient setting and add on medications 
as necessary
[] please arrange to give him an event monitor and follow-up the 
results of his event monitor to make sure he does not have 
arrhythmias that may have caused this syncope
[] we also held his home Coumadin dose given that his INR on 
admission was supratherapeutic at 3.1. Per inpatient pharmacy 
recs, we instructed him to skip his ___ dose and re-start his 
usual home dosing on ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. budesonide 180 mcg/actuation inhalation DAILY 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
3. amLODIPine 5 mg PO DAILY 
4. Valsartan 160 mg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
___  MD to order daily dose PO DAILY16 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
2.  Atorvastatin 10 mg PO QPM  
3.  budesonide 180 mcg/actuation inhalation DAILY  
4. HELD- amLODIPine 5 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until SBP > 130
5. HELD- Valsartan 160 mg PO DAILY  This medication was held. Do 
not restart Valsartan until SBP > 130

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope ___ hypotension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 It was a pleasure taking care of you at the ___ 
___!  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You were admitted because you lost consciousness. 

 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
 - We measured your blood pressures, which were low and held 
your HTN medications. 
 - We did an echocardiogram which showed your heart was 
structurally normal

 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
- Please hold your amlodipine and valsartan until you see your 
PCP later this week. Please take your other medications as 
directed. 
- Please follow-up with your primary care doctor later this week

___ you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___